US08809370B2
To a solution of 5-chloro-6-(ethoxycarbonyl)nicotinic acid (0.201 g, 0.875 mmol, 1.0 eq) and 4-fluorobenzylpiperazine (0.204 g, 1.051 mmol, 1.2 eq) in dimethylformamide (4.0 mL) was added triethylamine (0.146 mL, 1.051 mmol, 1.2 eq) followed by HATU (0.366 g, 0.963 mmol, 1.1 eq). The reaction was shaken at room temperature for 3 hours before partitioning between EtOAc (80 mL) and water-NaHCO3 (2:1, 60 mL). The organics were further washed with brine (80 mL), water (80 mL) and brine (80 mL) before drying (Na2SO4) and concentrating under reduced pressure. MPLC (30→95% EtOAc-hexane, 2→25 min) yielded ethyl 3-chloro-5-(4-(4-fluorobenzyl)piperazine-1-carbonyl)picolinate as a white solid (0.265 g, 75%); 1H nmr (D6-DMSO) 8.54 (1H, d, J 1.5 Hz, pyH-2 or pyH-4), 7.83 (1H, d, J 1.0 Hz, pyH-2 or pyH-4), 7.26 (2H, m, 2H of C6H4F), 6.99 (2H, t, J 8.5 Hz, 2H of C6H4F), 4.48 (2H, q, J 7.0 Hz, OCH2CH3), 3.55 (4H, m, 4H of piz), 2.45 (4H, m, 4H of piz), 1.43 (3H, t, J 7.0 Hz, OCH2CH3); m/z 406, 408 [M+H]+. A solution of the ethyl 3-chloro-5-(4-(4-fluorobenzyl)piperazine-1-carbonyl)picolinate (0.265 g, 0.654 mmol, 1.0 eq) and N-Boc-propargylamine (0.122 g, 0.785 mmol, 1.2 eq) in dimethylformamide (7.0 mL) was degassed by bubbling argon through it. Triethylamine (0.14 mL, 0.981 mmol, 1.5 eq) was added followed by copper(I)iodide (0.006 g, 0.033 mmol, 0.05 eq) and tetrakis(triphenylphosphine)palladium (0.038 g, 0.033 mmol, 0.05 eq). The reaction mixture was further degassed before heating to 90° C. for 14 hours. The reaction was cooled and filtered through Celite®, eluting with EtOAc (80 mL). The filtrate was washed with water (100 mL), brine (80 mL), water (100 mL) and brine (80 mL). The organics were dried (Na2SO4) and concentrated under reduced pressure. Column chromatography (silica, 70% EtOAc-hexane) yielded the ethyl 3-chloro-5-(4-(4-fluorobenzyl)piperazine-1-carbonyl)picolinate starting material and ethyl 3-(3-(tert-butoxycarbonylamino)prop-1-ynyl)-5-(4-(4-fluorobenzyl)piperazine-1-carbonyl)picolinate as a colourless oil; 1H nmr (CDCl3) 8.60 (1H, d, J 2.0 Hz, pyH-2 or pyH-4), 7.87 (1H, d, J 2.0 Hz, pyH-2 or pyH-4), 7.26 (2H, m, 2H of C6H4F), 6.99 (2H, t, J 8.5 Hz, 2H of C6H4F), 4.87 (1H, br s, NH), 4.47 (2H, q, J 7.0 Hz, OCH2CH3), 4.21 (2H, d, J 5.5 Hz, CH2NHBoc), 3.77 (2H, m, 2H of piz), 3.37 (2H, m, 2H of piz), 2.51 (2H, m, 2H of piz), 2.38 (2H, m, 2H of piz), 1.47 (9H, s, C(CH3)3), 1.43 (3H, t, J 7.0 Hz, OCH2CH3); m/z 525 [M+H]+. A solution of lithium hydroxide monohydrate (0.010 g, 0.229 mmol, 2.0 eq) in water (0.5 mL) was added to a solution of the ethyl 3-(3-(tert-butoxycarbonylamino)prop-1-ynyl)-5-(4-(4-fluorobenzyl)piperazine-1-carbonyl)picolinate (0.060 g, 0.115 mmol, 1.0 eq) in tetrahydrofuran-methanol (2:1, 1.5 mL). The reaction was stirred at room temperature for 40 minutes before neutralizing with HCl (approximately 0.2 mL of a 2M solution). The reaction mixture was concentrated to dryness to provide 3-(3-(tert-butoxycarbonylamino)prop-1-ynyl)-5-(4-(4-fluorobenzyl)piperazine-1-carbonyl)picolinic acid, which was used without purification; m/z 497 [M+H]+. To a solution of the crude 3-(3-(tert-butoxycarbonylamino)prop-1-ynyl)-5-(4-(4-fluorobenzyl)piperazine-1-carbonyl)picolinic acid (0.115 mmol, 1.0 eq) in dimethylformamide (2.0 mL) was added 1-(4-cyanobenzyl)-4-aminopiperidine dihydrochloride (0.040 g, 0.138 mmol, 1.2 eq) and HATU (0.052 g, 0.138 mmol, 1.2 eq). Triethylamine (0.056 mL, 0.403 mmol, 3.5 eq) was added and the reaction mixture was stirred at room temperature for 2.5 hours before partitioning between EtOAc (100 mL) and water (100 mL). The organics were further washed with brine (80 mL), water (80 mL) and brine (80 mL), dried (Na2SO4) and concentrated under reduced pressure. Column chromatography (silica, 3→6% MeOH—CH2Cl2) yielded Compound 164 as a yellow foam; 1H nmr (CDCl3) δ 8.46 (1H, d, J 2.0 Hz, pyH-4 or pyH-6), 7.85 (1H, d, J 2.0 Hz, pyH-4 or pyH-6), 7.80 (1H, d, J 8.0 Hz, CONH), 7.60 (2H, d, J 8.0 Hz, 2H of C6H4CN), 7.45 (2H, d, J 8.0 Hz, 2H of C6H4CN), 7.29-7.25 (2H, m, 2H of C6H4F), 7.00 (2H, t, J 8.5 Hz, 2H of C6H4F), 4.88 (1H, m, NHCO2C), 4.23 (2H, d, J 5.5 Hz, CCH2NH), 3.99 (1H, m, pipH-4), 3.80-3.40 (4H, br m, 4H of piz), 3.56 (2H, s, CH2C6H4CN or CH2C6H4F), 3.51 (2H, s, CH2C6H4CN or CH2C6H4F), 2.80 (2H, m, 2H of pip), 2.46 (4H, m, 4H of piz), 2.23 (2H, t, J 11.0 Hz, 2H of pip), 2.01 (2H, m, 2H of pip), 1.63 (2H, m, 2H of pip), 1.46 (9H, s, C(CH3)3); m/z: 694 [M+H]+.

reactant | lithium hydroxide monohydrate | 0.229 mmol, 0.010 g, 2.0 eq | O.[OH-].[Li+]
reactant | ethyl 3-(3-(tert-butoxycarbonylamino)prop-1-ynyl)-5-(4-(4-fluorobenzyl)piperazine-1-carbonyl)picolinate | 0.115 mmol, 0.060 g, 1.0 eq | C(C)(C)(C)OC(=O)NCC#CC=1C(=NC=C(C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)F)C(=O)OCC | C28H33FN4O5
reactant | HCl | Cl | ClH
solvent | water | 0.5 mL | O | H2O
solvent | tetrahydrofuran-methanol | 1.5 mL | O1C(CCC1)CO | C5H10O2
product | 3-(3-(tert-butoxycarbonylamino)prop-1-ynyl)-5-(4-(4-fluorobenzyl)piperazine-1-carbonyl)picolinic acid | C(C)(C)(C)OC(=O)NCC#CC=1C(=NC=C(C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)F)C(=O)O | C26H29FN4O5
